US05436369
For 3-[2-(1-Adamantyl)-4-methoxyphenyl]propionaldehyde (3n): Prepared by the following 5 step sequence. A solution of 2-(1-adamantyl)-1,4-hydroquinone (Miryan, N. I.; et al. Ukr. Khim. Zh. (Russ Ed.) 1990, 56, 183.) (1.88 g, 7.70 mmol) in acetone (100 mL) under a nitrogen atmosphere was treated with powdered potassium carbonate (1.06 g, 7.70 mmol) and dimethylsulfate (0.97 g, 7.70 mmol). After stirring for 48 h at reflux, the reaction mixture was cooled and concentrated in vacuo. The residue was partitioned between ether and a saturated ammonium chloride solution. The organic phase was washed with water (5×) and brine, dried with magnesium sulfate, treated with activated charcoal, filtered through celite, concentrated in vacuo to give an oil. Purification by column chromatography (20:1 silica gel/crude product; elution with methylene chloride) gave 1.0 g of an off-white solid. Trituration with ether gave 0.93 g (47%) of 2-(1-adamantyl)-4-methoxyphenol as a white solid. 1H NMR (300 MHz, CDCl3) δ8.75 (s, 1H, OH), 6.64 (d, J=8.5 Hz, 1H, ArH), 6.59 (d, J=3 Hz, 1H, ArH), 6.55 (dd, J=3, 8.5 Hz, 1H, ArH), 3.62 (s, 3H, OCH3), 2.00-2.03 (m, 9H, adamantyl), and 1.70 (s, 6H, adamantyl); 13C NMR (300 MHz, CDCl3) δ151.98, 149.81, 136.51, 116.49, 112.75, 110.50, 55.14 (OCH3), 39.72, 36.61, 36.17, and 28.39; IR (KBr) 3380, 2930, 2910, 2885, 2850, 1500, 1420, 1210, 1030, and 745 cm-1 ; MS (DCI) m/e 259 (MH+), 258 (M+), 257 (M--H)+, 135 (C10H15+). Anal. Calcd for C17H22O2 : C, 79.03; H, 8.58. Found: C, 78.91; H, 8.51. A slurry of 2-(1-adamantyl)-4-methoxyphenol (0.93 g, 3.60 mmol) in methylene chloride (60 mL) cooled to -78° C. was treated with ethyldiisopropylamine (0.51 g, 3.96 mmol). Trifluoromethanesulfonic anhydride (1.12 g, 3.96 mmol) was added dropwise to the stirred solution. After the addition was complete, the reaction mixture was stirred at 0° C. for 5 h and at room temperature for 18 h. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The organic phase was washed with water (5×), dried with anhydrous magnesium sulfate, filtered, and concentrated to give 1.36 g (96%) of 2-(1-adamantyl)-4-methoxyphenoxytrifluoromethanesulfonate. 1H NMR (300 MHz, CDCl3) δ7.22 (d, J=9 Hz, 1H, ArH), 6.92 (d, J=3 Hz, 1H, ArH), 6.71 (dd, J=3,9 Hz, 1H, ArH), 3.79 (s, 3H, OCH3), 2.09 (s, 3H, adamantyl), 2.02-2.03 (m, 6H, adamantyl), and 1.74-1.76 (m, 6H, adamantyl); 13C NMR (300 MHz, CDCl3) δ158.34, 143.10, 142.88, 122.11, 118.36 (q, J1c,f =318 Hz, CF3), 115.04, 110.84, 55.56 (OCH3), 40.89, 37.13, 36.50, and 28.80; IR (KBr) 2910, 2855, 1580, 1480, 1415, 1270, 1245, 1220, 1210, 1195, 1140, 1035, 920, 890, 865, 800, and 580 cm-1 ; MS (DCI) m/e 391 (MH+), 390 (M+), 389 (M--H)+, 255 (M--C10H15 +2H)+, 135 (C10H15+). Anal. Calcd for C18H21O4SF3 : C, 55.38; H, 5.42. Found: C, 55.48; H, 5.41. A solution of 2-(1-adamantyl)-4-methoxyphenoxytrifluoromethanesulfonate (1.51 g, 3.87 mmol), 3-tributylstannyl-(2E)-propenol (1.48 g, 4.25 mmol) (Jung, M. E.; Light, L. A. Tetrahedron Lett. 1982, 23, 3851), and bistriphenylphosphinepalladium dichloride (0.05 g, 0.08 mmol) in dimethylformamide was heated at 90° C. for 16 h according to the general procedure of A. Echavarren and J. K. Stille J. Am. Chem. Soc. 1987, 109, 5478. Purification by column chromatography (25:1 silica gel/crude product; elution with 20% ethyl acetate/hexane) gave 0.99g (86%) of 3-[2-(1-adamantyl)-4-methoxyphenyl]-(2E)-propenol. 1H NMR (300 MHz, CDCl3) δ7.35 (d, J=15 Hz, 1H, ArCH=CH), 7.30 (d, J=8.5 Hz, 1H, ArH), 6.89 (d, J=3 Hz, 1H, ArH), 6.68 (dd, J=3, 8.5 Hz, 1H, ArH), 5.93 (dt, J= 15, 6 Hz, 1H, ArCH=CH), 3.79 (s, 3H, OCH3), 2.06-2.08 (m, 9H, adamantyl), and 1.75 (s, 6H, adamantyl); 13C NMR (300 MHz, CDCl3) δ159.19, 149.10, 132.98, 130.76, 129.28, 127.76, 112.94, 109.80, 64.19 (OCH2), 55.15 (OCH3), 41.89, 37.95, 36.84, and 29.09; IR (KBr) 3345 (OH), 2905, 2850, 1600, 1570, 1475, 1450, 1300, 1260, 1235, 1030, and 760 cm-1 ; MS (DCI) m/e 299 (MH+), 298 (M+), 281 (M-OH)+, 135 (C10H15+). Anal. Calcd for C20H26O2 : C, 80.50; H, 8.78. Found: C, 80.43; H, 8.87. Hydrogenation of 3-[2-(1-adamantyl)-4-methoxyphenyl]-(2E)-propenol (0.99 g, 3.30 mmol) was conducted at 60 psi in ethanol using catalytic 10% palladium on charcoal. After 48 h, the solution was filtered through celite and concentrated in vacuo to give the crude product. Purification by column chromatography (20:1 silica gel/crude product; elution with methylene chloride) gave 3-[2-(1-adamantyl)-4-methoxyphenyl]-propanol (0.74 g, 75%). 1H NMR (300 MHz, CDCl3) δ7.09 (d, J=8.5 Hz, 1H, ArH), 6.87 (d, J=3 Hz, 1H, ArH), 6.69 (dd, J=3, 8.5 Hz, 1H, ArH), 3.73-3.77 (m, 5H, OCH2 and OCH3), 2.92-2.97 (m, 2H, ArCH2), 2.04-2.09 (m, 9H, adamantyl), 1.81-1.91 (m, 2H, ArCH2CH2), and 1.75-1.77 (s, 6H, adamantyl); 13C NMR (300 MHz, CDCl3) δ157.43, 149.02, 132.74, 132.69, 113.02, 109.98, 63.04 (OCH2), 55.11 (OCH3), 42.10, 37.93, 36.85, 36.39, 29.91, and 29.19; IR (KBr) 3355 (OH), 2905, 2850, 1605, 1575, 1450, 1290, 1255, 1235, 1055, 1035, and 755 cm-1 ; MS (DCI) m/e 301 (MH+), 300 (M), 299 (M--H)+, 165 (M--C10H15)+, 135 (C10H15 +). Anal. Calcd for C20H28O2 : C, 79.96; H, 9.39. Found: C, 79.63; H, 9.52. Oxidation of 3-[2-(1-Adamantyl)-4-methoxyphenyl]-propanol (0.62 g, 2.1 mmol) was carried out using catalytic tetrapropylammonium perruthenate using the general procedure of W. Griffith and S. Ley Aldrichimica Acta 1990, 23, 13. Purification by column chromatography (40:1 silica gel/crude product; elution with ethyl acetate/hexane) gave 3-[2-(1-adamantyl)-4-methoxyphenyl]propanal (3n) (0.42 g, 68%). 1H NMR (300 MHz, CDCl3) δ9.87 (s, 1H, CHO), 7.04 (d, J=8 Hz, 1H, ArH), 6.90 (d, J=3 Hz, 1H, ArH), 6.71 (dd, J=3,8 Hz, 1H, ArH), 3.79 (s, 3H, OCH3), 3.22 (m, 2H, CH2), 2.77 (m, 2H, CH2), 2.10 (s, 3H, adamantyl), 2.03 (m, 6H, adamantyl), and 1.77 (s, 6H, adamantyl).

reactant | KBr | [K+].[Br-]
reactant | 3-[2-(1-adamantyl)-4-methoxyphenyl]-(2E)-propenol | 3.30 mmol, 0.99 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)OC)C/C=C/O | C20H26O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 3-[2-(1-adamantyl)-4-methoxyphenyl]-propanol | 0.74 g, 75% | C12(CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)OC)CCCO | C20H28O2
